Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Tylenol
 
Attending: ___.
 
Chief Complaint:
"It's a compounded situation, but basically I can't handle my 
life anymore"

Patient self presented to ED after having SI with plan to OD on 
medication and alcohol.  
 
Major Surgical or Invasive Procedure:
None.  
 
History of Present Illness:
Ms. ___ is a ___ yo F with no formal past psychiatric history,
but likely hx of depression, SIB (cutting), self-presenting with
SI and plan in the context of multiple psychosocial stressors.
Psychiatry was consulted for safety evaluation.

On interview, patient is noted to be quite dysphoric, downcast,
and slow in speech. She reports a series of difficult
psychosocial stressors over the past 6 months. In ___ she
moved to ___ "out of necessity" due to her parents starting 
to
physically abuse her again (from both parents, though
predominantly father). She left her home and was able to move in
with a good friend in ___. However they subsequently had a
falling out, and she ultimately ended up homeless in ___
for about 1 mo, and another half a month couch surfing in
___. She states this time was extremely traumatic for her.
After that she moved into an unheated attic in a co-op, which 
she
pays for with her current job. However state the attic now also
has no electricity. She says she already wasn't doing that well
mentally living in the attic, but it was "manageable." However
then 3 weeks ago she reports she was essentially sexually
assaulted by a friend while drunk (not entirely consensual), and
since then "just can't handle it anymore." Additionally, her
former friend she had lived with told her to stop contacting 
him,
as she admits she "crossed the line" and asked him for too much
support. She now feels like she doesn't have anybody for 
support.

She has been having suicidal thoughts for about 7 months, which
she says were "manageable," and she knew she wouldn't act on
them, however but in the past few weeks got worse - and now
reports "I've given in." She currently sees "no way out, there 
is
nowhere to run, nowhere to recover." Today she planned to go 
home
and "take a bunch of pills and ___ it with vodka." However she
notes there was a part of her that didn't want to do that, as 
she
came to the hospital instead. She stated she was "probably" 
going
to do it. She has almost overdosed multiple times over the past
few months (at  least 20x) - taking the pills into her hands, 
and
was stopped by "fear." Was not able to bring to mind anyone or
anything worth living for.

Endorses multiple vegetative sx of depression including low
energy - feels very depleted, significant anhedonia, and some
sleep disturbance. Has mostly preserved appetite. Has been 
having
vivid nightmares about trauma. Used to have flashbacks, but now
just lots of intrusive thoughts. Says it is very difficult for
her to feel safe anywhere public, as she is always hypervigilant
and "very scared of everything." Reports anxiety episodes
consisting of SOB, extreme anxiety, heart racing, palms 
sweating,
lasting a few minutes, and occurring at least a few times a 
week.
She also has been cutting, though not for the past few weeks. 
She
does this when she get overwhelmed. Has considered slitting her
wrists in SA as well, but has never cut with intention of
suicide. Denies manic or psychotic sx, aside from
paranoia described above. She feels she "really needs help" and
is agreeable to inpatient hospitalization.

 
Past Medical History:
PAST MEDICAL HISTORY:
Asthma 

PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: Depression, ADD
- Hospitalizations: none
- Current treaters and treatment: Saw a therapist until left for
___, was seeing from ___, describes as very
helpful and that this was at a more stable time in her life.
- Medication and ECT trials: Zoloft in the past, prescribed by
PCP. Unclear if helpful to her, didn't notice too much of a
difference, on it for about a year, off since ___.
- Suicide attempts: one prior in ___ - took ___ Zoloft as 
a
SA which only just made her feel sick for a few days. Felt
ambivalent about it not working afterwards.
- Self-injurious behavior: endorses hx of cutting when feels
emotionally "overwhelmed." Hasn't done for past 3 weeks.
- Harm to others: denies
- Access to weapons: denies

 
Social History:
SUBSTANCE ABUSE HISTORY:
- Alcohol: Says when given the opportunity, drinks "more than I
should," but also says "I can regulate it." Last drink 3 weeks
ago at time of assault. When drinks to excess has ___ at least
drinks. Doesn't black out.
- Cocaine/amphetamines/speed: denies
- Opiates: denies
- Benzodiazepines: denies
- Marijuana/LSD/PCP: denies
- ___: denies
- Caffeine: Occasional soda

FORENSIC HISTORY: ___
SOCIAL HISTORY:
-Born/Raised: ___, ___. Parents currently still
live there. 
-Family/Support: Had been living with just parents in ___. Has 1
older brother who lives in ___ - says they are fairly close
but he doesn't know everything that's gone on. She reports he 
was
aware of housing issues but he didn't know how bad the
homelessness got, and she gave vague reasoning for why she
couldn't live with him. Denies any other current other supports 
-
no longer on good terms with friend she had lived with.
-Relationship status/Children: None.
-Housing: Currently living in an attic in a co-op.
-Education: Only a couple semesters of college due to financial
reasons. Was going to ___ in ___
(studied classical voice).
-Employment/Income: Works at a ___, makes enough to pay
her rent currently.
-Spiritual: Denies.
-Trauma history: Physical abuse from father. Past emotionally
abusive romantic relationship, almost physically abusive. Sexual
assault 3 weeks ago while drunk. 

 
Family History:
FAMILY PSYCHIATRIC HISTORY:
"Definitely depression" in family. Maternal grandmother and
maternal aunt both with schizophrenia. 

 
Physical Exam:
* General: Well-nourished, well-developed, in no apparent
distress. Appears stated age. 
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Neck: Supple, trachea midline. No adenopathy or thyromegaly.
 * Back: No significant deformity, no focal tenderness.
 * Lungs: Clear to auscultation; no crackles or wheezes.
 * CV: Regular rate and rhythm; no murmurs/rubs/gallops; 2+ 
pedal
 pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
 organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry, no rashes, scars, or lesions.

Neurological:
   *Cranial Nerves-
        I: Not tested.
        II: Pupils equally round and reactive to light
bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
   *Coordination- Normal on finger-nose-finger.
   *Deep tendon reflexes- 2+ and symmetrical, toes downgoing.
   *Sensation- intact to light touch, position sense intact.
   *Gait- steady, no truncal ataxia, normal stance and posture.
   *Romberg- negative.

NEUROPSYCHIATRIC EXAMINATION:
 * Appearance: petite young woman with glasses and long hair 
dyed
teal, tied up in a ponytail. Wearing a hospital gown
 * Behavior: sitting cross-legged in chair, fully cooperative
with interview, quite thoughtful and methodical in answering all
questions
 * Orientation: AOx3
 * Mood: "pretty depressed"
 * Affect: dysphoric, constricted range
 * Thought Process: linear, goal-directed
 * Thought Content: +passive SI with no intent or plan currently
 * Judgment: fair
 * Insight: fair
 * Speech: somewhat slow and deliberate, normal vol/tone

COGNITION:
 * Memory: ___ registration, ___ recall at 5 min; remote intact
 * Abstraction: apple/orange = fruits
 * Proverb: correctly interprets "people in glass houses
shouldn't throw stones"
 * Calculation: $1.75 = 7 quarters
 * Fund of knowledge: able to name ___ play by ___
 * Attention span: able to list MOYB without error
 * Language: normal

 
Pertinent Results:
___ 09:10AM URINE  UCG-NEGATIVE
___ 09:10AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:10AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-10 BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-SM 

___ 10:30PM   GLUCOSE-76 UREA N-12 CREAT-0.6 SODIUM-135 
POTASSIUM-3.6 CHLORIDE-100 TOTAL CO2-25 ANION GAP-14
___ 10:30PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:30PM   WBC-11.1* RBC-4.40 HGB-11.5 HCT-36.9 MCV-84 
MCH-26.1 MCHC-31.2* RDW-14.8 RDWSD-45.1
___ 10:30PM   NEUTS-62.3 ___ MONOS-7.1 EOS-1.1 
BASOS-0.4 IM ___ AbsNeut-6.90* AbsLymp-3.19 AbsMono-0.79 
AbsEos-0.12 AbsBaso-0.04
___ 10:30PM   PLT COUNT-___. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout her admission.  They were also placed on q15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.  There were 
no safety concerns during her admission.  

2. PSYCHIATRIC:
#) MDD vs Adjustment disorder with depressed mood 
Patient has many psychosocial stressors including being recently 
homeless, now living in an unheated attic in a house with 8 
other people, few to no strong social supports, a full time job 
which she is afraid she might be fired from if her employers 
knew how she was feeling, no health insurance or outpatient 
providers, no outside financial support and a recent sexual 
assault.  She reported symptoms of depression such as low mood, 
low energy, lack of interest in activities and poor sleep.  She 
believed her depression was made worse by her current living 
situation and resent assault.  She had been thinking about 
overdosing on Zoloft for a while but the night she came to the 
ED she felt she couldn't keep herself safe and not overdose.  On 
interview, she was very insightful and articulate and a very 
good advocate for what sort of help would be most useful to her. 
 She was interested in trying a different antidepressant as she 
didn't think the Zoloft 200 mg that she had been taking for a 
few months was helpful.  She was agreeable to trying Paxil given 
her recent anxiety and PTSD symptoms following her assault.  It 
was started at 10 mg and increased to 30mg qD with no side 
effects noted. She was started on methylphenidate 5mg BID (she 
had been on this drug before) to aid with concentration.  She 
also had done CBT/seen a therapist before while in ___ and was 
very interested in working with a therapist in ___.  She also 
requested therapy specific for trauma as she has found her 
recent and past trauma to make coping with her current situation 
very difficult.  ___ domestic violence team was consulted 
for further assistance and will be in contact with the patient 
upon discharge to offer services.  Follow up with out patient 
providers was arranged including an NP to function as a primary 
care provider and to refer her to psychiatry follow up, as 
insurance (___) was pending for her. Upon discharge she 
was discharged with a 2 week supply of medicines via a free 
pharmacy program as her public health insurance was pending. 

#) PTSD
Patient reports a history of abuse from her parents, physical 
and verbal.  She also was sexually assaulted about three weeks 
ago while drinking with some friends.  Since that event, she has 
been hypervigilant, afraid to go out on her own, nightmares, 
flashbacks and anxiety.  Paxil was selected as an antidepressant 
to hopefully help with PTSD and anxiety symptoms.  Patient would 
likely benefit from further outpatient therapy focused on 
trauma.    

3. SUBSTANCE USE DISORDERS:
#) Denies illicit substance use.  Does drink occasionally, 
mostly socially but does not see her drinking as a problem.  
Recently has not been drinking after assault.    

4. MEDICAL
#) Asthma: Continued home albuterol inhaler as needed 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  The 
patient’s primary team met with them daily and various 
psychotherapeutic modalities were utilized during those times. 

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Patient did not wish to involve family or friends initially.  
Did report a good relationship with brother.  No current 
outpatient providers.   

#) INTERVENTIONS
- Medications: Paxil 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: Patient will be contacted CVPR on 
discharge 
- Behavioral Interventions (e.g. encouraged DBT skills, ect): 
-Guardianships:

INFORMED CONSENT: The team discussed the indications for, 
intended benefits of, and possible side effects and risks of 
starting this medication, and risks and benefits of possible 
alternatives, including not taking the medication, with this 
patient.   We discussed the patient's right to decide whether to 
take this medication as well as the importance of the patient's 
actively participating in the treatment and discussing any  
questions about medications with the treatment team, and I  
answered the patient's questions.  The patient appeared able to 
understand and consented to begin the medication.

RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon her 
suicidal ideation with a plan to overdose on her home 
medications and alcohol.  Their static factors noted at that 
time include history of suicide attempts, history of 
abuse,Caucasian race, age, and marital status.   The modifiable 
risk factors included limited social supports, limited coping 
skills, no established outpatient treatment, insomnia and a 
challenging living situation were also addressed at that time.  
Coping skills training was provided, ___ insurance was 
applied for, outpatient provider referral was provided, free 
pharmacy care was provided for the interim time as insurance was 
pending, counseling was provided regarding finding a better 
housing situation and in coping with trauma.  Finally, the 
patient is being discharged with many protective risk factors, 
(listed below).  Overall, ***Based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is, moderate.

MODIFIABLE RISK FACTORS
**suicidal ideation with/without intent/plan, psychosis, 
disorganized and unpredictable behavior, medication 
noncompliance, lack of engagement with outpatient treatment, 
hopelessness, agitation, recklessness, social withdrawal, 
limited social supports, limited coping skills, poor reality 
testing, no established outpatient treatment, insomnia, lack of 
purpose, active substance abuse/intoxication, impulsivity, 
polarized thinking, and recent (financial/physical/personal) 
loss. 

PROTECTIVE RISK FACTORS
 ***help-seeking nature, future-oriented viewpoint, sense of 
responsibility to family, life satisfaction, reality testing 
ability, good coping skills, good problem-solving skills,  no 
history of substance use disorder, ability to tolerate 
rejection.

 
Medications on Admission:
Albuterol inhaler 
Zoloft 200 mg 
 
Discharge Medications:
1. Paroxetine 30 mg PO DAILY 
2. MethylPHENIDATE (Ritalin) 5 mg PO BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder vs adjustment disorder with depression 

PTSD

 
Discharge Condition:
Denies AVH, denies SI or HI. Alert and oriented to person, 
place, and time.

 
Discharge Instructions:
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation.  We 
adjusted your medications, and you are now ready for discharge 
and continued treatment as an outpatient.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___